US07632857B2
[2-(S)-(2-(R)-Ethyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-(4′-trifluoromethyl-biphenyl-4-yl)-methanone
The title compound is prepared in a manner substantially analogous to Procedure RR starting from (2-(S)-hydroxymethyl-pyrrolidin-1-yl)-(4′-trifluoromethyl-biphenyl-4-yl)-methanone and 2-(R)-ethyl-pyrrolidine (CAS 460748-80-5) MS (M+H) 431.3.

reactant | (2-(S)-hydroxymethyl-pyrrolidin-1-yl)-(4′-trifluoromethyl-biphenyl-4-yl)-methanone | OC[C@H]1N(CCC1)C(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F | C19H18F3NO2
reactant | 2-(R)-ethyl-pyrrolidine | C(C)[C@H]1NCCC1 | C6H13N
product | [2-(S)-(2-(R)-Ethyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-(4′-trifluoromethyl-biphenyl-4-yl)-methanone | C(C)[C@H]1N(CCC1)C[C@H]1N(CCC1)C(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F | C25H29F3N2O
